US07138413B1
1-bromo-3-(4-cyclopropanecarbonylphenoxy)propane, intermediate for examples 101 and 102.
To a stirred and heated mixture of 1,3-dibromopropane (5 mmol) and potassium carbonate (3.4 mmol) in acetone (40 ml) was added dropwise a solution of 4-cyclopropanecarbonylphenol (5 mmol) in acetone (20 ml). The reaction was allowed to continue overnight. The mixture was filtered hot and the solvent removed under reduced pressure to leave an oil. The oil was purified by column chromatography on silica gel eluting with petroleum ether/ethyl acetate (15:1). 4-(N,N-dimethylsulfonamido)phenol, intermediate for example 110.

reactant | 1,3-dibromopropane | 5 mmol | BrCCCBr | C3H6Br2
reactant | potassium carbonate | 3.4 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | 4-cyclopropanecarbonylphenol | 5 mmol | C1(CC1)C(=O)C1=CC=C(C=C1)O | C10H10O2
solvent | acetone | 40 ml | CC(=O)C | C3H6O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 1-bromo-3-(4-cyclopropanecarbonylphenoxy)propane | BrCCCOC1=CC=C(C=C1)C(=O)C1CC1 | C13H15BrO2
